US06555541B1
f) 2-(3,4-Difluorophenylamino)-N-(2-methyl-5-piperazin-1-ylmethyl-phenyl)-acetamide trihydrochloride
To a solution of 4-(3-{2-[tert-butoxycarbonyl-(3,4-difluoro-phenyl)-amino]-acetylamino}-4-methyl-benzyl)-piperazine-1-carboxylic acid tert-butyl ester (0.100 g) in MeOH (3 ml) was added HCl (2ml of 4M solution in dioxane). After standing for several hours, a solid was filtered off, washed with acetone and dried in vacuo. The solid was re-suspended in acetone, sonicated for 5 min filtered and dried to afford the title compound (0.043 g, 51%).

reactant | 4-(3-{2-[tert-butoxycarbonyl-(3,4-difluoro-phenyl)-amino]-acetylamino}-4-methyl-benzyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.100 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC(=C(C=C1)C)NC(CN(C1=CC(=C(C=C1)F)F)C(=O)OC(C)(C)C)=O | C30H40F2N4O5
reactant | HCl | 4M, 2ml | Cl | ClH
solvent | MeOH | 3 ml | CO | CH4O
product | 2-(3,4-Difluorophenylamino)-N-(2-methyl-5-piperazin-1-ylmethyl-phenyl)-acetamide trihydrochloride | 0.043 g, 51% | Cl.Cl.Cl.FC=1C=C(C=CC1F)NCC(=O)NC1=C(C=CC(=C1)CN1CCNCC1)C | InChI=1S/C20H24F2N4O.3ClH/c1-14-2-3-15(13-26-8-6-23-7-9-26)10-19(14)25-20(27)12-24-16-4-5-17(21)18(22)11-16;;;/h2-5,10-11,23-24H,6-9,12-13H2,1H3,(H,25,27);3*1H
